US07858640B2
(S)-2-{3-[2-chloro-4-(pyrrolidine-1-carbonyl)benzyl]-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy}propionic Acid
A mixture of (S)-2-{3-[2-chloro-4-(pyrrolidine-1-carbonyl)benzyl]-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy}propionic acid methyl ester (0.75 g), tetrahydrofuran (20 mL), water (20 mL) and lithium hydroxide (0.11 g) was stirred at room temperature for 20 minutes. The mixture was washed with ethyl acetate and the aqueous phase acidified by the addition of 1.0 M aqueous hydrochloric acid and then extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and the solvent removed under reduced pressure. Purification of the residue by column chromatography on C-18 column, eluting with a mixture of water and methanol (4:1 to 0:1 by volume) gave title compound as an off-white solid, 0.20 g.

reactant | (S)-2-{3-[2-chloro-4-(pyrrolidine-1-carbonyl)benzyl]-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy}propionic acid methyl ester | 0.75 g | COC([C@H](C)OC1=C2C(=C(C(=NC2=C(C=C1)F)CC)CC1=C(C=C(C=C1)C(=O)N1CCCC1)Cl)OC(F)F)=O | C28H28ClF3N2O5
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 0.11 g | [OH-].[Li+]
solvent | water | 20 mL | O | H2O
product | (S)-2-{3-[2-chloro-4-(pyrrolidine-1-carbonyl)benzyl]-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy}propionic Acid | ClC1=C(CC=2C(=NC3=C(C=CC(=C3C2OC(F)F)O[C@H](C(=O)O)C)F)CC)C=CC(=C1)C(=O)N1CCCC1 | C27H26ClF3N2O5
